US06686352B2
a) 2-Amino-5-chloro-benzoic Acid Ethyl Ester (Compound of Formula VII)
Prepared from ethyl anthranilate and sodium hypochlorite (according to M. Okabe and R-C Sun, Tetrahedron, 1995, 51, 1861) to give an off-white solid, mp 80° C., m/z 199.

reactant | ethyl anthranilate | C(C=1C(N)=CC=CC1)(=O)OCC | C9H11NO2
reactant | sodium hypochlorite | Cl[O-].[Na+]
product | 2-Amino-5-chloro-benzoic Acid Ethyl Ester | C(C)OC(C1=C(C=CC(=C1)Cl)N)=O | C9H10ClNO2
